US07795247B2
Step 2: 14-cyclohexyl-3-fluoro-6-(1H-imidazol-1-ylacetyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid
Methyl 14-cyclohexyl-3-fluoro-6-(1H-imidazol-1-ylacetyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate was dissolved in a solution of dioxane: H2O (1:1) (0.1 M) and to that solution aqueous KOH (3 eq, 5 N) were added. The solution was stirred at 60° C. for 3 h. The solvent was evaporated in vacuo. The crude was then purified by automated RP-MS-HPLC (stationary phase: column Waters SYMMETRY prep. C18, 7 μm, 19×300 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (41%).

reactant | Methyl 14-cyclohexyl-3-fluoro-6-(1H-imidazol-1-ylacetyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C(CN2C=NC=C2)=O)C=C(C=C1)F)C(=O)OC | C30H31FN4O3
reactant | KOH | 5 N, 3 eq | [OH-].[K+]
solvent | dioxane H2O | 0.1 M | O1CCOCC1.O
product | 14-cyclohexyl-3-fluoro-6-(1H-imidazol-1-ylacetyl)-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid | 41% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)C(CN2C=NC=C2)=O)C=C(C=C1)F)C(=O)O | C29H29FN4O3
